US07598257B2
Step 1: 2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethanol.
Ethyl 1,4-dioxaspiro[4.5]dec-8-ylacetate (3.40 g, 0.0149 mol) prepared according to the procedure of Itagaki, Noriaki; Kimura, Mari; Sugahara, Tsutomu; Iwabuchi, Yoshiharu. (Organic Letters 2005; 7(19); 4181-4183.) was dissolved in ether (30.00 mL) and the mixture was cooled to 0° C. To the reaction was added 1.00 M lithium tetrahydroaluminate in ether (15.0 mL) and the resulting mixture was stirred at 0° C. for 60 minutes and at 25° C. for 2 hours. The reaction was cooled and water (0.40 mL, 0.022 mol) was added, followed by 1.00 M sodium hydroxide (0.40 mL). To the reaction was then added ether (100.00 mL) and the solid that precipitated was filtered off. The filtrate was concentrated using a rotary evaporator to give the product. 1H NMR(CDCl3): 3.94 (s, 4H), 3.67 (t, 2H), 1.20-1.80 (m, 11H).

reactant | Ethyl 1,4-dioxaspiro[4.5]dec-8-ylacetate | 0.0149 mol, 3.40 g | O1CCOC12CCC(CC2)CC(=O)OCC | C12H20O4
reactant | lithium tetrahydroaluminate | 1.00 M | [AlH4-].[Li+]
reactant | water | 0.022 mol, 0.40 mL | O | H2O
reactant | sodium hydroxide | 1.00 M, 0.40 mL | [OH-].[Na+]
solvent | ether | 30.00 mL | CCOCC | C4H10O
solvent | ether | 15.0 mL | CCOCC | C4H10O
product | 2-(1,4-Dioxaspiro[4.5]dec-8-yl)ethanol | O1CCOC12CCC(CC2)CCO | C10H18O3
